US06890942B2
4-Cyclopentanesulfonylamino-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with cyclopentanesulfonic acid amide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 1.66 (m, 2), 1.83 (m, 2), 2.08 (overlapping m, 4), 3.69 (s, 3), 4.10 (p, 1, J=8), 4.79 (s, 2), 6.53 (s, 1), 7.01 (m, 2), 7.29 (m, 2), 8.84 (s, 1). 13C NMR (125 MHz, CDCl3) δ: 20.55, 22.24, 42.90, 57.27, 57.80, 87.06, 110.29, 110.46, 124.85, 124.91, 125.66, 153.94, 154.50, 156.29, 158.25, 165.53.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | cyclopentanesulfonic acid amide | C1(CCCC1)S(=O)(=O)N | C5H11NO2S
product | 4-Cyclopentanesulfonylamino-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2CCCC2)O)=O)OC)C=C1 | C17H21FN2O6S
